US09359344B2
(2) Preparation of (R)-(3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-2-oxooxazolidin-5-yl)methyl phosphate disodium salt
(R)-(3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-2-oxooxazolidin-5-yl)methyl dihydrogen phosphate (140 mg, 0.3 mmol) was dissolved in 15 mL methanol. Sodium methoxide (48 mg, 0.9 mmol) was added, and reacted at room temperature for 12 h. After filtration 110 mg of product was obtained, at a yield of 71.6%.

reactant | (R)-(3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-2-oxooxazolidin-5-yl)methyl dihydrogen phosphate | 0.3 mmol, 140 mg | P(=O)(OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1C=NC(=CC1)NC1=NN=NN1C)F)(O)O | C17H17FN7O6P
reactant | Sodium methoxide | 0.9 mmol, 48 mg | C[O-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | (R)-(3-(3-fluoro-4-(6-((1-methyl-1H-tetrazol-5-yl)amino)pyridin-3-yl)phenyl)-2-oxooxazolidin-5-yl)methyl phosphate disodium salt | yield of 71.6% | [Na+].[Na+].P(=O)(OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1C=NC(=CC1)NC1=NN=NN1C)F)([O-])[O-] | InChI=1S/C17H17FN7O6P.2Na/c1-24-16(21-22-23-24)20-15-5-2-10(7-19-15)13-4-3-11(6-14(13)18)25-8-12(31-17(25)26)9-30-32(27,28)29;;/h2-7,12H,8-9H2,1H3,(H2,27,28,29)(H,19,20,21,23);;/q;2*+1/p-2/t12-;;/m1../s1
